US08022222B2
N-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-yl)-4-methylthiazol-2-amine (2.66 mmol) is dissolved in THF (30 mL) and cooled to −78° C. MeLi (2.07 mL, 3.32 mmol) is slowly added and the reaction mixture is stirred for 10 minutes. n-Butyllithium (1.33 mL, 3.32 mmol) is added and the reaction mixture is stirred for 15 minutes. Triisopropylborate (0.613 mL, 2.66 mmol) is added and the reaction mixture is stirred for 30 minutes. The reaction mixture is warmed to 0° C., and methanol (5 mL), 10% aqueous NaOH (5.1 mL, 12.8 mmol), and 30% aqueous H2O2 (1.27 mL, 13.3 mmol) are added. The reaction mixture is stirred at 0° C. for 1 hour, then purified by silica gel chromatography (10-20% EtOAc in hexanes) to afford 4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-ol.

reactant | N-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-yl)-4-methylthiazol-2-amine | 2.66 mmol | BrC=1C(=CC(=NC1)NC=1SC=C(N1)C)OC1=C(C=CC=C1F)F | C15H10BrF2N3OS
reactant | MeLi | 3.32 mmol, 2.07 mL | [Li]C
reactant | n-Butyllithium | 3.32 mmol, 1.33 mL | C(CCC)[Li]
reactant | Triisopropylborate | 2.66 mmol, 0.613 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | NaOH | 12.8 mmol, 5.1 mL | [OH-].[Na+]
reactant | H2O2 | 13.3 mmol, 1.27 mL | OO | H2O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-ol | FC1=C(OC2=C(C=NC(=C2)NC=2SC=C(N2)C)O)C(=CC=C1)F | C15H11F2N3O2S
